US07989438B2
Step 10: (7S)-7-[(1-{2-[(aminosulfonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid
A solution of (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}-pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid (7 mM) in DCM was treated with an excess of TFA (>100 eq). The mixture was stirred at RT for 3.5 h. Volatiles were removed in vacuo. The residue was dissolved in toluene and re-evaporated to drive off excess TFA. The material was taken on without further purification. (ES+) m/z 611 (M+H)+.

reactant | (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}-pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | 7 mM | C(C)(C)(C)OC(=O)NS(=O)(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C | C37H50N4O8S
reactant | TFA | >100 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (7S)-7-[(1-{2-[(aminosulfonyl)(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | NS(=O)(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C | C32H42N4O6S
